Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine / Codeine / Beta-Blockers (Beta-Adrenergic Blocking Agts)
 
Attending: ___
 
Chief Complaint:
hand swelling

 
Major Surgical or Invasive Procedure:
L thumb arthrocentesis and washout ___

 
History of Present Illness:
Patient is a ___ w/o male with CAD, HTN who presents with left 
thumb swelling and pain. The patient states that his sx began 
yesterday with redness and swelling of his left thumb. His pain 
has been progressively worsening since that time and he has 
noted increased swelling around the joint.

In the ED, initial vitals were:  97.9 82 153/111 18 100%   
Exam notable for: pain to palpation of ___ MCP joint (thumb) 
with swelling and erythema extending to the dorsal hand, not 
involving other digits, pain with passive extension, pain with 
palpation of flexor tendons, thumb held in flexed position for 
optimal comfort. 
Labs notable for
Imaging notable for hand xray which showed: no fracture or 
radiopaque foreign body.
Patient was given 1g vancomycin

Patient was seen by  who recommended ortho hand who performed 
arthrocentesis with findings of pus. Washout of the joint was 
subsequently performed with wick placement to allow incision 
drain. 2 sets of wound cultures sent. Patient was placed in 
thumb spica for comfort, as well as a stockinette to help with 
swelling.
Decision was made to admit for septic arthritis 
Vitals notable for: 97.5 70 170/76 14 98% RA  

On the floor, The patient is appearing comfortable. He is 
feeling hungry but denies any pain, fevers/chills, chest pain, 
shortness of breath.  
 
Past Medical History:
Esophageal dysmotility s/p PEG placement, GERD, CAD, HTN, HLD

 
Social History:
___
Family History:
noncontributory

 
Physical Exam:
Admission Physical Exam:
VS:  98.9  66  170/50  20  95%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear. poor dentition. 
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
MSK: L lower arm with spica cast on. No apparent swelling or 
pain around the region.

Discharge Physical Exam:
VS: 98.4 99.5  ___  142-151/50-54  16  97%ra  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear. poor dentition. 
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic 
ejection murmur at base.
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
MSK: L lower arm with spica cast on. L thumb is purple in color 
with moderate amount of edema. Small amount of drainage of 
blood. Mild tenderness to palpation. Sensation to gross touch in 
tact in all fingers. 

 
Pertinent Results:
==ADMISSION LABS==
___ 01:10PM BLOOD WBC-7.2 RBC-2.98* Hgb-10.8* Hct-32.4* 
MCV-109* MCH-36.2* MCHC-33.3 RDW-12.5 RDWSD-49.1* Plt ___
___ 01:10PM BLOOD Neuts-72.5* Lymphs-13.1* Monos-12.4 
Eos-0.8* Baso-0.6 Im ___ AbsNeut-5.23 AbsLymp-0.94* 
AbsMono-0.89* AbsEos-0.06 AbsBaso-0.04
___ 07:05AM BLOOD Glucose-95 UreaN-21* Creat-0.7 Na-133 
K-3.7 Cl-98 HCO3-25 AnGap-14
___ 01:10PM BLOOD UricAcd-5.5
___ 07:05AM BLOOD Calcium-8.2* Phos-3.4 Mg-2.2
___ 01:10PM BLOOD CRP-1.7

==DISCHARGE LABS==
___ 06:40AM BLOOD WBC-5.0 RBC-2.85* Hgb-10.4* Hct-30.7* 
MCV-108* MCH-36.5* MCHC-33.9 RDW-12.5 RDWSD-48.8* Plt ___
___ 06:40AM BLOOD Glucose-107* UreaN-17 Creat-0.7 Na-136 
K-3.5 Cl-100 HCO3-29 AnGap-11
___ 06:40AM BLOOD Calcium-8.3* Phos-3.2 Mg-2.4

==OTHER RESULTS==
LEFT HAND XRAY ___
No fracture or radiopaque foreign body.

CHEST XRAY ___
Lungs are hyperinflated.  Bibasilar are likely reflect 
atelectasis.  Heart size is enlarged and the descending thoracic 
aorta is mildly tortuous. No definite evidence of pneumonia.  
Multiple calcified pleural plaques are re-demonstrated. 
  
 
Brief Hospital Course:
Brief Hospital Course:
=========================================
Patient is a ___ with a PMHx of HTN, Esophageal dysmotility 
s/p PEG placement who presented with swelling and redness of L 
thumb concerning for septic joint, s/p washout.

# Septic vs Inflammatory arthritis of L hand:  Joint was 
aspirated by hand surgery in ED and patient was started on IV 
antibiotics. Pain improved significantly after aspiration. He 
underwent washout from orthopedics. ID was consulted for 
possible septic joint and patient was initially started on IV 
antibiotics. However blood cultures and wound cultures remained 
negative and antibiotics were discontinued. On discharge only 
endorsed small amount of discomfort. On discharge, he had athumb 
spica and stockinette.  He was also instructed to use betadine 
soaks three times per day.  His pain was treated wtih Tylenol 
___ mg every 6 hours as needed. Narcotics were avoided due to 
codeine allergy. Follow up with hand clinic was arranged prior 
to discharge. 

# Esophageal dysmotility s/p PEG placement: Continued with 
Jevity tube feeds at home rate
 
CHRONIC ISSUES: 
==========================
#  H/o CAD- 
- Continued with ASA 81 mg
- Continued with Simvastatin 40 mg qhs

#Depression:
- Continued with Citalopram

#BPH- No urinary retention in hospital.
- Continued with Finasteride

#COPD/Asthma- Well controlled, not an active issue during 
hospital course.
- Continued with Advair inhaler bid, as well as montelukast qhs.

#GERD
- Continued dmeprazole 20 mg po bid

#Insomnia
- Continued with Trazodone 50 mg po qhs for insomnia

TRANSITIONAL ISSUES:
============================
- follow up with ortho hand ___
- continue betadine soak x 48 hours
- continue splint for 48 hours, then continue splint at night 
until ortho follow up
- CODE: Full (Confirmed)
- CONTACT: ___ (daughter): ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. TraZODone 50 mg PO QHS:PRN insomnia 
3. Simvastatin 40 mg PO QPM 
4. Omeprazole 20 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Montelukast 10 mg PO QHS 
7. Citalopram 10 mg PO DAILY 
8. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
9. Aspirin 81 mg PO DAILY 
10. Jevity 1.5 Cal (lactose-reduced food with fibr) 240 cc oral 
Q6H 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Citalopram 10 mg PO DAILY 
3. Finasteride 5 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. Montelukast 10 mg PO QHS 
6. Simvastatin 40 mg PO QPM 
7. TraZODone 50 mg PO QHS:PRN insomnia 
8. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0
9. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
10. Jevity 1.5 Cal (lactose-reduced food with fibr) 240 cc oral 
Q6H 
11. Omeprazole 20 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
joint effusion

Secondary:
Esophageal dysmotility s/p PEG placement
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ with joint swelling. This was drained 
by the hand surgeons. The fluid did not show any evidence of 
infection. Please soak your left thumb in a solution of betadine 
for the next ___ hours. Use 1 part betadine and 3 parts warm 
water. Please soak it like this for 20 minutes, twice a day. 
Practice moving your thumb while it is in this warm water soak. 
After you are done, dress your thumb in clean, dry gauze. If 
your hand wound begins to worsen after you go home, please call 
Dr. ___ office to report this (___). For the next 
two days, you should maintain your splint at all times except 
when you are soaking.  After 48 hours, you may keep your hand 
out of the splint during the day and wear just at night. Keep 
doing this until you follow up with Dr. ___ on ___. Below 
are some detailed instructions.

Best,
Your ___ Care Team

HAND-FINGER INFECTION:
Followup Instructions:
___